US09385326B2
To a solution of 4,4,8,8,12,12-hexamethyl-8,12-dihydro-4H-benzo[1,9]quinolizino[3,4,5,6,7-defg]acridine (5 g, 13.68 mmol) in CHCl3 (133 mL) at 0° C. was added N-bromosuccinimide (2.44 g, 13.68 mmol) over a period of 20 min. While warming up to room temperature, the resulting solution was stirred in the absence of light overnight. The reaction was quenched with a saturated aqueous solution of Na2S2O3. The resulting mixture was extracted with CH2Cl2 (3×) and the combined organic fractions were dried with MgSO4. After filtration and evaporation of the solvent, the residue was subjected to column chromatography (silica, n-hexane/CH2Cl2 4:1). Final recrystallization from ethanol yielded 2-bromo-4,4,8,8,12,12-hexamethyl-8,12-dihydro-4H-benzo[1,9]quinolizino[3,4,5,6,7-defg]acridine as a white powder (5.6 g, 92%).

reactant | 4,4,8,8,12,12-hexamethyl-8,12-dihydro-4H-benzo[1,9]quinolizino[3,4,5,6,7-defg]acridine | 13.68 mmol, 5 g | CC1(C2=C3C(C(C=4C=5N3C=3C1=CC=CC3C(C5C=CC4)(C)C)(C)C)=CC=C2)C | C27H27N
reactant | N-bromosuccinimide | 13.68 mmol, 2.44 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CHCl3 | 133 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-4,4,8,8,12,12-hexamethyl-8,12-dihydro-4H-benzo[1,9]quinolizino[3,4,5,6,7-defg]acridine | 5.6 g, 92% | BrC1=CC=2C(C=3C=CC=C4C3N3C2C(=C1)C(C1=C3C(C4(C)C)=CC=C1)(C)C)(C)C | C27H26BrN
